US04748162
Pivaloyloxymethyl (5R,6R)-2-ethylsulfinyl-6-(-2-hydroxy-2-propyl)-pen-2-em-3-carboxylate
Pivaloyloxymethyl bromide (29.3 mg, 0.15 mmol) is added to a suspension of lithium (5R,6R)-2-ethylsulfinyl-6-(2-hydroxy-2-propyl)-pen-2-em-3-carboxylate (29.5 mg, 0.1 mmol) in anhydrous DMF (0.5 ml). The resulting mixture is stirred under a N2 atmosphere at room temperature for 4 hours. The mixture is diluted with EtOAc, washed repeatedly with water, dried with MgSO4, filtered, and evaporated under vacuum to afford a residue of the title compound. This material is purified by preparative TLC.

reactant | Pivaloyloxymethyl bromide | 0.15 mmol, 29.3 mg | C(C(C)(C)C)(=O)OCBr | C6H11BrO2
reactant | lithium (5R,6R)-2-ethylsulfinyl-6-(2-hydroxy-2-propyl)-pen-2-em-3-carboxylate | 0.1 mmol, 29.5 mg | C(C)S(=O)C=1S[C@H]2N(C1C(=O)[O-])C([C@H]2C(C)(C)O)=O.[Li+]
solvent | DMF | 0.5 ml | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | Pivaloyloxymethyl (5R,6R)-2-ethylsulfinyl-6-(-2-hydroxy-2-propyl)-pen-2-em-3-carboxylate | C(C)S(=O)C=1S[C@H]2N(C1C(=O)OCOC(C(C)(C)C)=O)C([C@H]2C(C)(C)O)=O | C17H25NO7S2
